US09282744B2
65% Benziothiazolinone.Dimethomorph Water Dispersible Granule
63% benziothiazolinone, 2% dimethomorph, 6% sodium lignosulfonate, 3% sodium dodecyl sulfonate, 1% xanthan gum, 1% sodium carboxymethyl starch, complemented to 100% with attapulgite.

reactant | dimethomorph | COC=1C=CC(=CC1OC)C(=CC(=O)N2CCOCC2)C=3C=CC(=CC3)Cl | C21H22ClNO4
reactant | sodium dodecyl sulfonate | C(CCCCCCCCCCC)S(=O)(=O)[O-].[Na+]
product | Dimethomorph Water | COC=1C=CC(=CC1OC)C(=CC(=O)N2CCOCC2)C=3C=CC(=CC3)Cl.O | InChI=1S/C21H22ClNO4.H2O/c1-25-19-8-5-16(13-20(19)26-2)18(15-3-6-17(22)7-4-15)14-21(24)23-9-11-27-12-10-23;/h3-8,13-14H,9-12H2,1-2H3;1H2
